US08440829B2
2-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridyl]propan-2-ol
Purge with a mixture of 2-(5-bromo-3-pyridyl)propan-2-ol (18.5 g, 85.7 mmol), bis(pinacolato)diboron (44 g, 171 mmol, 2 eq.) and potassium acetate (25.2 g, 257 mmol, 3 eq.) in 1,4-dioxane (428 mL) in nitrogen thoroughly. Add (1,1′-bis(diphenylphosphino)ferrocene)palladium(II) chloride (3.5 g, 4.3 mmol) and evacuate and purge the reaction twice with nitrogen. Heat the mixture at 90° C. overnight. Cool and dilute with ethyl acetate (1 L) and sonicate for 30 minutes. Filter through a pad of Celite® and dry the liquid filtrate over sodium sulfate. After filtration, concentrate the organic liquid and re-dissolve residue in ethyl acetate (1 L) and filter again through a pad of Celite®. Concentrate the filtrate and suspend the residue in diethyl ether (100 mL) followed by hexane (700 mL). Sonicate briefly and filter to obtain solid residue to afford the titled compound as a crude solid (18.5 g). MS (ESI) m/z (M+H)+264.0.

reactant | 2-(5-bromo-3-pyridyl)propan-2-ol | 85.7 mmol, 18.5 g | BrC=1C=C(C=NC1)C(C)(C)O | C8H10BrNO
reactant | bis(pinacolato)diboron | 171 mmol, 44 g, 2 eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 257 mmol, 25.2 g, 3 eq. | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 428 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 2-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridyl]propan-2-ol | CC1(OB(OC1(C)C)C=1C=C(C=NC1)C(C)(C)O)C | C14H22BNO3
